US07265148B2
Synthesis of 1-benzyl-3-phenyl-5-(1H-pyrrol-1-yl)-1H-indole-2-carboxylic acid
To a stirred solution of ethyl 1-benzyl-3-phenyl-5-(1H-pyrrol-1-yl)-1H-indole-2-carboxylate (0.80 g, 1.9 mmol) in 20 mL of 2:1:1 THF/MeOH/water was added lithium hydroxide monohydrate (0.80 g, 19.0 mmol). The reaction was stirred at room temperature for 1 day. Most of the organic solvents was removed and the reaction mixture was made acidic (pH 6) with glacial acetic acid, and the solid was collected and purified by semi-preparative HPLC (Column: Phenomenex C18 Luna 21.6 mm×60 mm, 5 μM; Solvent A: Water (0.1% TFA buffer); Solvent B: Acetonitrile (0.1% TFA buffer); Solvent Gradient: Time 0:0% B; 10 min: 100% B; Hold 100% B 5 min. Flow Rate: 22.5 mL/min). The product was collected based on UV absorption and concentrated to give the title compound as a white solid (0.70 g, 94%): 1H NMR (DMSO-d6+CDC3) δ 5.88 (s, 2 H), 6.23 (t, J=2.1 Hz, 2 H), 7.02 (t, J=2.1 Hz, 2 H), 7.10-7.50 (m, 13 H); MS (ESI) m/z 393 (MH+); MS (ESI) m/z 391 ([M−H]−); HRMS calcd for C26H21N2O2: 393.1604; found (ESI+): 393.1590; Anal. calcd for C26H20N2O2: C, 79.57; H, 5.14; N, 7.14. Found: C, 79.25; H, 5.04; N, 7.12.

reactant | ethyl 1-benzyl-3-phenyl-5-(1H-pyrrol-1-yl)-1H-indole-2-carboxylate | 1.9 mmol, 0.80 g | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)N1C=CC=C1)C1=CC=CC=C1)C(=O)OCC | C28H24N2O2
reactant | lithium hydroxide monohydrate | 19.0 mmol, 0.80 g | O.[OH-].[Li+]
solvent | THF MeOH water | 20 mL | C1CCOC1.CO.O
product | 1-benzyl-3-phenyl-5-(1H-pyrrol-1-yl)-1H-indole-2-carboxylic acid | 0.70 g, 94% | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)N1C=CC=C1)C1=CC=CC=C1)C(=O)O | C26H20N2O2
